* source WEEK2_LAB
V_V1         N00107 0 0Vdc
D_D1         N00107 0 D1N4148 
D_D2         N01980 N00714 D1N4148 
R_R1         N00723 N00714  1k TC=0,0 
V_V2         N01980 N00723  
+SIN 0 6.3 60 0 0 0
R_l2p3R1         N02540 N02522  10K TC=0,0 
V_l2p3V1         N02511 0  
+SIN 0 6.0 60 0 0 0
D_D3         N02522 0 D1N4148 
D_D4         N02511 N02540 D1N4148 
D_D5         0 N02540 D1N4148 
D_D6         N02522 N02511 D1N4148 
