* source LAB1PART3
C_C1         N01373 N01073  0.1uF  TC=0,0 
I_V1         N01373 0 DC 0Vdc AC 1Vac 
R_R1         0 N01073  5K TC=0,0 
R_R2         0 N01373  100Meg TC=0,0 
